US07977481B2
1-{3-[4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino]-phenyl}-ethanol (15 mg, 0.04 mmol), 2,6-dimethlphenylboronic acid (7.2 mg, 0.048 mmol) and PdCl2(dppf)2 (1.6 mg, 0.002 mmol) were combined in Smith microwave vial (0.2-5.0 mL) in degassed DMA (300 uL) and 2 M Na2CO3 (250 uL). The mixture was micro waved at 165° C. for 900 s. The mixture was diluted with 500 uL DMSO and purified directly by preparative HPLC to afford 1-(3-{4-[5-(2,6-dimethylphenyl)-thiophen-2-yl]-pyrimidin-2-ylamino}-phenylethanol (4.9 mg, 30% yield). 1H NMR (500 MHz, DMSO-d6) δ 1.29 (d, J=6.5 Hz, 3H), 2.14 (s, 6H), 4.64 (m, 1H), 5.07 (d, J=3.5 Hz, 1H), 6.91 (d, J=8 Hz, 1H), 7.02 (d, J=4 Hz, 1H), 7.16-7.25 (m, 4H), 7.35 (d, J=5 Hz, 1H), 7.60 (d, J=8 Hz, 1H), 7.84 (br t, 1H), 8.03 (d, J=3.5 Hz, 1H), 8.48 (d, J=5 Hz, 1H), 9.58 (s, 1H). MS: m/z 402 (M+H+).

reactant | 1-{3-[4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino]-phenyl}-ethanol | 0.04 mmol, 15 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C(C)O | C16H14BrN3OS
reactant | 2,6-dimethlphenylboronic acid | 0.048 mmol, 7.2 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
solvent | DMA | 300 uL | CC(=O)N(C)C | C4H9NO
solvent | Na2CO3 | 2 M, 250 uL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | 500 uL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf)2 | 0.002 mmol, 1.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-{4-[5-(2,6-dimethylphenyl)-thiophen-2-yl]-pyrimidin-2-ylamino}-phenylethanol | 4.9 mg, 30% yield | CC1=C(C(=CC=C1)C)C1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C(C)O | C24H23N3OS
